US09371319B2
Preparation 84: 6-Bromo-1-(cyclohexylmethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine
NaHMDS (1 M solution in THF, 217 mL, 0.217 mmol) was added to a solution of 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 50 mg, 0.180 mmol) in DMF (790 mL). The reaction mixture was then stirred for 10 minutes at room temperature before the addition of (bromomethyl)cyclohexane (38 mL, 0.271 mmol) and was stirred overnight at 60° C. NaH (60% in mineral oil) (14.4 mg, 0.361 mmol) and bromomethylcyclohexane (76 mL, 0.542 mmol) were then added. The reaction mixture was stirred for 1 hour at 60° C. before being diluted with water and EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude was purified via Biotage silica gel column chromatography eluting with (DCM/EtOAc 99/1 to 80/20) to afford the title product as a colourless oil (40 mg, 59%). 1H NMR (500 MHz, CDCl3) d 0.84-0.94 (m, 2H), 1.06-1.17 (m, 3H), 1.43-1.50 (m, 2H), 1.61-1.69 (m, 3H), 1.70-1.78 (m, 1H), 3.95 (d, J=7.5 Hz, 2H), 4.02 (s, 3H), 6.52 (d, J=0.9 Hz, 1H), 7.41 (t, J=0.9 Hz, 1H), 7.57 (s, 1H), 7.66 (s, 1H), 8.58 (d, J=0.9 Hz, 1H). LC (Method B)-MS (ESI, m/z) tR 3.14 min, 373 [(M+H+), 100%].

reactant | NaHMDS | 0.217 mmol, 1 M, 217 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.180 mmol, 50 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | (bromomethyl)cyclohexane | 0.271 mmol, 38 mL | BrCC1CCCCC1 | C7H13Br
reactant | NaH | 0.361 mmol, 14.4 mg | [H-].[Na+]
reactant | bromomethylcyclohexane | 0.542 mmol, 76 mL | BrCC1CCCCC1 | C7H13Br
solvent | DMF | 790 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Bromo-1-(cyclohexylmethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 40 mg, 59% | BrC1=CC2=C(C=N1)C=C(N2CC2CCCCC2)C=2C=NN(C2)C | C18H21BrN4
